US09126931B2
6,6-Dimethyl-8-(1-oxetan-3-yl-piperidin-4-ylmethoxy)-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
6,6-Dimethyl-11-oxo-8-(piperidin-4-ylmethoxy)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile hydrochloric acid salt (Compound A7-25, 30 mg, 0.075 mmol) and oxetan-3-one (38 mg, 7 eq.) were dissolved in acetic acid (0.2 ml), THF (1 ml) and methanol (1 ml), added with sodium cyanoborohydride (33 mg, 7 eq.) at room temperature, and stirred overnight. The reaction solution was added with water, and then extracted with ethyl acetate. The solution was dried over sodium sulfate and the solvent was removed under vacuum and the resulting residues were purified by preparative TLC (chloroform:2 N ammonia methanol=9:1) to obtain the target compound (15 mg).

reactant | 6,6-Dimethyl-11-oxo-8-(piperidin-4-ylmethoxy)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile hydrochloric acid salt | 0.075 mmol, 30 mg | Cl.CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)OCC2CCNCC2)C
reactant | oxetan-3-one | 38 mg, 7 eq. | O1CC(C1)=O | C3H4O2
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | sodium cyanoborohydride | 33 mg, 7 eq. | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | 1 ml | CO | CH4O
product | 6,6-Dimethyl-8-(1-oxetan-3-yl-piperidin-4-ylmethoxy)-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 15 mg | CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)OCC2CCN(CC2)C2COC2)C | C28H29N3O3
